US09108939B2
B: tert-Butyl 4-(5-amino-1H-indazol-1-yl)piperidine-1-carboxylate
tert-Butyl 4-(5-nitro-1H-indazol-1-yl)piperidine-1-carboxylate (6.78 mmol, 2.35 g) and 10% palladium on carbon (0.136 mmol, 0.144 g) were combined and stirred in ethanol (50 mL) under 5 bar hydrogen for 1 hour. The reaction mixture was filtered and the filtrate concentrated under vacuum to afford the title compound (2.1 g).

reactant | tert-Butyl 4-(5-nitro-1H-indazol-1-yl)piperidine-1-carboxylate | 6.78 mmol, 2.35 g | [N+](=O)([O-])C=1C=C2C=NN(C2=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H22N4O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.136 mmol, 0.144 g | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | tert-Butyl 4-(5-amino-1H-indazol-1-yl)piperidine-1-carboxylate | 2.1 g | NC=1C=C2C=NN(C2=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N4O2
